US05266567
In a 250-mL round bottom flask, equipped with a magnetic stirrer, a heating mantle and reflux condenser, were placed 1-bromotetradecane (15.9 g, 57.3 mmol), acetonitrile (75 mL), and morpholine (10 g, 114.7 mmol). The reaction mixture was refluxed for 4 hrs. The reaction mixture was cooled to room temperature and was concentrated to a residue on a rotary evaporator. Water and ethyl acetate were added. The organic phase was separated and washed with saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated to dryness affording 15.2 g (94% yield) of 4-tetradecylmorpholine as a tan oil. This intermediate was subjected to the next step without further purification.

reactant | 1-bromotetradecane | 57.3 mmol, 15.9 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | morpholine | 114.7 mmol, 10 g | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 4-tetradecylmorpholine | 15.2 g, 94% yield | C(CCCCCCCCCCCCC)N1CCOCC1 | C18H37NO
